US06329381B1
5-Amino-4-cyano-1-(4-fluorobenzyl)-2-hydroxyimidazole
4-Fluorobenzylisocyanate (1.37 g, 10 mmol) and N,N-diisopropylethylamine (1.29 g, 10 mmol) were added to aminomalononitrile p-toluenesulfonate (2.53 g, 10 mmol) suspended in tetrahydrofuran (50 ml). The mixture was stirred at room temperature for 24 hours and then the solvent was removed in vacuo. To the residue was added ethyl acetate and the solution was washed and the organic layer was extracted with 1N aqueous sodium hydroxide. The extract was neutralized with 10% aqueous potassium hydrogen sulfide and extracted with ethyl acetate. The organic layer was dried on sodium sulfate and the solvent was removed in vacuo. The residue was purified with silica gel chromatography (1% methanol/chloroform) to give the subject compound (1.93 g, yield 89%).

reactant | 4-Fluorobenzylisocyanate | 10 mmol, 1.37 g | FC1=CC=C(CN=C=O)C=C1 | C8H6FNO
reactant | N,N-diisopropylethylamine | 10 mmol, 1.29 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | aminomalononitrile p-toluenesulfonate | 10 mmol, 2.53 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.NC(C#N)C#N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 5-Amino-4-cyano-1-(4-fluorobenzyl)-2-hydroxyimidazole | 1.93 g, yield 89% | NC1=C(N=C(N1CC1=CC=C(C=C1)F)O)C#N | C11H9FN4O
